US07141595B2
4-(6-Nitro-benzothiazol-2-ylamino)-butan-1-ol
In an oven fried vial charged with 4-amino-1-butanol (172 μl, 2 eq.), 2-chloro-6-nitro-benzothiazol (200 mg, 0.93 mmol) and diisopropyl-ethylamine (1 mL) was added DMF (5 mL). The dark brown mixture was heated at 100° C. for 2 hours. After cooling, the mixture was diluted with 20 mL of water and extracted with ethyl-acetate (50 mL). The ethyl acetate layer was washed with brine, dried over MgSO4 and then evaporated to give a dark residue. This residue was subjected to silica gel chromatography (7% 2M ammonia/methanol in CH2Cl2) to give the desired product (45 mg, 18%). 1H NMR (CD3OD) δ: 8.55 (d, 1H, J=2.3 Hz), 8.17 (dd, 1H, J=2.3, 8.9 Hz), 7.47 (d, 1H, J=8.9 Hz), 3.63 (m, 3H), 3.53 (t, 2H, J=6.8 Hz), 1.80–1.75 (m, 2H), 1.70–1.65 (m, 2H); MS (M+1, 268).

reactant | 4-amino-1-butanol | 172 μl, 2 eq. | NCCCCO | C4H11NO
reactant | 2-chloro-6-nitro-benzothiazol | 0.93 mmol, 200 mg | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | diisopropyl-ethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonia methanol | 2M | N.CO
solvent | water | 20 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(6-Nitro-benzothiazol-2-ylamino)-butan-1-ol | 45 mg, 18% | [N+](=O)([O-])C1=CC2=C(N=C(S2)NCCCCO)C=C1 | C11H13N3O3S
